US08859573B2
4-[({4-[(3-Fluoro-4-methylphenyl)oxy]phenyl}methyl)oxy]-1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2(1H)-pyridinone
The title compound was prepared by a procedure similar to that described for E21 starting from 4-[({4-[(3-fluoro-4-methylphenyl)oxy]phenyl}methyl)oxy]-2(1H)-pyridinone and 4-(chloromethyl)-1-methyl-1H-pyrazole. LC-MS (ESI): m/z 420 [M+H]+; 3.35 min (ret time).

reactant | 4-[({4-[(3-fluoro-4-methylphenyl)oxy]phenyl}methyl)oxy]-2(1H)-pyridinone | FC=1C=C(C=CC1C)OC1=CC=C(C=C1)COC1=CC(NC=C1)=O | C19H16FNO3
reactant | 4-(chloromethyl)-1-methyl-1H-pyrazole | ClCC=1C=NN(C1)C | C5H7ClN2
product | 4-[({4-[(3-Fluoro-4-methylphenyl)oxy]phenyl}methyl)oxy]-1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2(1H)-pyridinone | FC=1C=C(C=CC1C)OC1=CC=C(C=C1)COC1=CC(N(C=C1)CC=1C=NN(C1)C)=O | C24H22FN3O3
